US05886181
(S)-4-Formyl-1-propionylpiperazine-2-carboxylic acid tert-butylamide
16.1 g (60.2 mmol) of 4-formyl-1-propionyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide, 19.5 mg (35.9 μmol) of 1-[1(R)-(di-tert-butylphosphino)-ethyl]-2(S)-(diphenylphosphino)ferrocene and 11.1 mg (29.6 μmol) of bis(bicyclo[2.2.1]hepta-2,5-diene)rhodium(I) tetrafluoroborate were placed in an autoclave, oxygen being excluded. After flushing with argon, 80 ml of oxygen-free methanol was added. Hydrogenation was carried out at an initial pressure of 12 bar and a temperature of 90° C. for 8 hours. The autoclave was depressurized and flushed with nitrogen. The solvent of the reaction mixture was completely distilled off to give 17.00 g (94%) of the title product. GC analysis showed a conversion of 99 percent. After cleavage of the protecting groups with hydrochloric acid, the enantioselectivity of the hydrogenation was determined by GC analysis, giving an ee of 96.5 percent. The melting point of the title compound was: 132.1° to 134.3° C. Other data concerning the title compound was:

reactant | 4-formyl-1-propionyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide | 60.2 mmol, 16.1 g | C(C)(C)(C)NC(=O)C=1N(CCN(C1)C=O)C(CC)=O | C13H21N3O3
reactant | oxygen | O=O | O2
product | (S)-4-Formyl-1-propionylpiperazine-2-carboxylic acid tert-butylamide | 17.00 g, 94% | C(C)(C)(C)NC(=O)[C@H]1N(CCN(C1)C=O)C(CC)=O | C13H23N3O3
